US04187216
The L-alanyl-L-proline cyclopentylamide hydrobromide obtained according to part (B)(ii) of this Example was dissolved in 40 ml of pyridine and the solution was treated with 2.6 ml of propionic anhydride. The mixture was stirred at room temperature for 2 hours. The mixture was then evaporated, final traces of pyridine being removed by addition of toluene and re-evaporation. The residue was recrystallised from ethyl acetate to give 2.1 g of N-propionyl-L-alanyl-L-proline cyclopentylamide of melting point 172°-173° C.; [α]D20 =-122.8° (c=1.0314% in methanol).

reactant | L-alanyl-L-proline cyclopentylamide hydrobromide | Br.C1(CCCC1)NC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O
reactant | propionic anhydride | 2.6 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-propionyl-L-alanyl-L-proline cyclopentylamide | 2.1 g | C1(CCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(CC)=O)C)=O)=O | C16H27N3O3
